US07893055B2
Ethyl 3-(benzyloxy)-10-methyl-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate:
To a stirred solution of ethyl 3-(benzyloxy)-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate (0.180 g, 0.5 mmol) and iodomethane (0.62 mL, 10 mmol) in THF (5 mL) at −78 C was added 1M solution of LiHMDS (1 mL, 1 mmol) over 2 minutes. After 1.5 h, the reaction mixture was quenched with saturated aq. NH4Cl, diluted with EtOAc (50 mL), dried (Na2SO4), filtered, concentrated and the residue was purified by Prep-HPLC to afford the desired product as orange solid (0.021 g, 11%). 1H NMR (500 MHz, CDCl3) δ: 7.48-7.46 (2H, m), 7.37-7.29 (3H, m), 5.24 (2H, s), 5.15 (1H, dd, J=13.9, 4.4 Hz), 4.33 (2H, q, J=7.0 Hz), 4.18 (1H, q, J=7.0 Hz), 3.62 (1H, dd, J=13.6, 12.1 Hz), 3.14-3.09 (1H, m), 2.77 (1H, dt, J=14.4, 4.2 Hz), 2.34-2.27 (1H, m), 1.91-1.82 (1H, m), 1.62 (3H, d, J=7.0 Hz), 1.30 (3H, t, J=7.0 Hz). HRMS (M+H) calcd for C19H23N2O4S: 375.1379; found: 375.1375.

reactant | ethyl 3-(benzyloxy)-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate | 0.5 mmol, 0.180 g | C(C1=CC=CC=C1)OC1=C(N=C2CSCCCN2C1=O)C(=O)OCC | C18H20N2O4S
reactant | iodomethane | 10 mmol, 0.62 mL | IC | CH3I
reactant | LiHMDS | 1 mmol, 1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(benzyloxy)-10-methyl-4-oxo-6,7,8,10-tetrahydro-4H-pyrimido[2,1-c][1,4]thiazepine-2-carboxylate | 0.021 g, 11% | C(C1=CC=CC=C1)OC1=C(N=C2C(SCCCN2C1=O)C)C(=O)OCC | C19H22N2O4S
